US07691877B2
Benzyl-(2-chloro-3-nitro-6-trifluoromethyl-pyridin-4-yl)-amine
4-Benzylamino-3-nitro-6-trifluoromethyl-pyridin-2-ol (61.7 gm 197 mmol) was added to phenylphosphonic dichloride (180 mL) and heated to 100° C. in an oil bath, under N2 overnight. The starting material dissolved on heating to give a light yellow solution. The mixture was then quenched on to ice water (600 gm of ice+100 mL water) to give a pale yellow solid. Filtered off and washed the solid well with water. The solid was dissolved in ethyl acetate (600 mL) and washed with aqueous sodium hydrogen carbonate solution (10% w/v) until there was no further effervescence and the pH of the aqueous washings were basic. The organic layer was dried over sodium sulphate, filtered and evaporated to give a dirty yellow solid. The solid was then dissolved in diethyl ether. To this was then added n-hexane until the solution was cloudy. Within a few minutes a thick flocculent solid had formed, which was then filtered off, washed with n-hexane and dried to give the title compound (60.59 gm 92% yield).

reactant | 4-Benzylamino-3-nitro-6-trifluoromethyl-pyridin-2-ol | 197 mmol, 61.7 gm | C(C1=CC=CC=C1)NC1=C(C(=NC(=C1)C(F)(F)F)O)[N+](=O)[O-] | C13H10F3N3O3
reactant | phenylphosphonic dichloride | 180 mL | C1(=CC=CC=C1)P(=O)(Cl)Cl | C6H5Cl2OP
reactant | n-hexane | CCCCCC | C6H14
solvent | diethyl ether | C(C)OCC | C4H10O
product | Benzyl-(2-chloro-3-nitro-6-trifluoromethyl-pyridin-4-yl)-amine | 60.59 gm, 92% yield | C(C1=CC=CC=C1)NC1=C(C(=NC(=C1)C(F)(F)F)Cl)[N+](=O)[O-] | C13H9ClF3N3O2
